US09085555B2
A. (S)-2-(3-Trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a mixture of Boc-L-proline (5 g, 23.23 mmol), 3-(trifluoromethoxy)aniline (3.73 mL, 27.88 mmol) and HBTU (13.2 g, 34.8 mmol) in DMF (60 mL) was added DIPEA (7.95 mL, 46.5 mmol) and the resulting yellow solution was stirred at RT under nitrogen. The solvent was concentrated under vacuum and the residue dissolved in EtOAc and washed with HCl 1N. The combined organic layers were neutralized by addition of an aqueous saturated solution of NaHCO3. The layers were separated and the aqueous one back-extracted twice with CH2Cl2. The combined organic extracts were dried (Na2SO4), filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane/EtOAc 3:1 to 2:1) to give the desired compound. TLC, Rf (c-hexane/EtOAc 1:1)=0.57; MS (LC/MS): 397.1 [M+Na]+, 275.2 [MH−Boc]+, 373.3 [M−H]−; tR (HPLC conditions a) 3.81 min.

reactant | Boc-L-proline | 23.23 mmol, 5 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | 3-(trifluoromethoxy)aniline | 27.88 mmol, 3.73 mL | FC(OC=1C=C(N)C=CC1)(F)F | C7H6F3NO
reactant | HBTU | 34.8 mmol, 13.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 46.5 mmol, 7.95 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | (S)-2-(3-Trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(NC1=CC(=CC=C1)OC(F)(F)F)=O | C17H21F3N2O4
